US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-nitropyrimidine with 3,4-ethylenedioxyaniline gave N2,N4-bis-(3,4-ethylenedioxyphenyl)-5-nitro-2,4-pyrimidinediamine. LCMS: ret. time: 30.78 min.; purity: 100%; MS (m/e): 424 (MH+); 1H NMR (CDCl3): δ 10.21 (1H, s), 9.10 (1H, s), 7.40 (1H, s), 7.11–6.71 (6H, m), 4.29 (4H, s), 4.25 (4H, s).

reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2,N4-bis-(3,4-ethylenedioxyphenyl)-5-nitro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)[N+](=O)[O-] | C20H17N5O6
